US04079181
To a solution of p-nitrobenzyl α-[4-carbobenzoxythio -3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyehtylidene)acetate (480 mg) in methylene chloride (5ml) containing 20% of nitromethane is added a solution of aluminum chloride (270 mg) in methylene chloride containing 20% of nitromethane (4ml), and the mixture is stirred at room temperature for 1 hour. The reaction mixture is poured into diluted hydrochloric acid, and is extracted with methylene chloride. The extract solution is washed water, dried over magnesium sulfate, and evaporated to give p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate (376 mg). Yield: 99.5%.

reactant | p-nitrobenzyl α-[4-carbobenzoxythio -3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyehtylidene)acetate | 480 mg | C(=O)(OCC1=CC=CC=C1)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)O)=O)NC(COC1=CC=CC=C1)=O | C30H26BrN3O10S
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | aluminum chloride | 270 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nitromethane | 4ml | [N+](=O)([O-])C | CH3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 5ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate | 376 mg, Yield: 99.5% | SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)O)=O)NC(COC1=CC=CC=C1)=O | C22H20BrN3O8S
